bridge-balanced: Balanced Wheatstone bridge
* Ideal linear signal model; opamps have no supply or output limits.
V1 vcc 0 DC 5 AC 0
Rtl vcc left 1000
Rbl left 0 2000
Rtr vcc right 1500
Rbr right 0 3000
Rbridge left right 10000
.op
.control
set filetype=ascii
set numdgt=15
run
write result.raw all
quit
.endc
.end
