divider-loaded: Loaded voltage divider
* Ideal linear signal model; opamps have no supply or output limits.
V1 vcc 0 DC 5 AC 0
Rtop vcc out 10000
Rbottom out 0 10000
Rload out 0 10000
.op
.control
set filetype=ascii
set numdgt=15
run
write result.raw all
quit
.endc
.end
