opamp-inverting: Inverting amplifier
* Ideal linear signal model; opamps have no supply or output limits.
EU1 out 0 0 sum 1000000
V1 vin 0 DC 0.10000000000000001 AC 0
Rin vin sum 10000
Rf sum out 100000
.op
.control
set filetype=ascii
set numdgt=15
run
write result.raw all
quit
.endc
.end
